US07101940B2
6 g of N,N-dimethylisopropylamine and 300 ml of heptane were placed under argon in a 500 ml three-necked flask fitted with internal thermometer and gas inlet stopcock. HCl gas from a gas generation apparatus was passed into this reaction mixture for 1 hour. The N,N-dimethylbenzylammonium hydrochloride formed was separated off via a G4 frit, washed with 100 ml of heptane and dried in an oil pump vacuum. 7.4 g (87%) of the desired product were isolated.

reactant | N,N-dimethylisopropylamine | 6 g | CN(C)C(C)C | C5H13N
reactant | HCl | Cl | ClH
reactant | heptane | 300 ml | CCCCCCC | C7H16
product | N,N-dimethylbenzylammonium hydrochloride | Cl.C[NH+](C)CC1=CC=CC=C1 | InChI=1S/C9H13N.ClH/c1-10(2)8-9-6-4-3-5-7-9;/h3-7H,8H2,1-2H3;1H/p+1
